US07074798B2
a) 4-[7-(2-Chlorophenyl)-3-methoxycarbonylmethyl-2,6-dioxo-1-phenethyl-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[7-(2-Chlorophenyl)-3-methoxycarbonylmethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (49 mg) was dissolved in N,N-dimethylformamide (1 ml), and potassium carbonate (20 mg) and 2-phenethyl bromide (0.03 ml) were added to the solution. Then, the mixture was stirred at 50° C. overnight. The reaction mixture was diluted with ethyl acetate, and washed with water and 1N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate and filtered. The solvent was removed by distillation to give 52 mg of the title compound.

reactant | 4-[7-(2-Chlorophenyl)-3-methoxycarbonylmethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 49 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1C1=C(C=CC=C1)Cl)=O)=O)CC(=O)OC | C23H27ClN6O6
reactant | potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-phenethyl bromide | 0.03 ml | C1=CC=C(C=C1)CCBr | C8H9Br
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[7-(2-Chlorophenyl)-3-methoxycarbonylmethyl-2,6-dioxo-1-phenethyl-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 52 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)Cl)=O)CCC1=CC=CC=C1)=O)CC(=O)OC | C31H35ClN6O6
